US07790751B2
1-Benzyl-3-[3-(1-Naphthylsulfonylmethyl)-4-nitrophenoxy]-piperidine
A mixture of 1-benzyl-3-(4-nitrophenoxy)piperidine (1.0 g, 3.14 mmoles) and 1-chloromethanesulfonylnaphthalene (0.9 g, 3.8 mmoles) in THF at −78° C. was treated dropwise with a solution of 1M potassium t-butoxide (9 mL, 9 mmoles) over a 30 minute period, warmed to −40° C., stirred at −40° C. for 5 hours, poured into cold 2N HCl and extracted with EtOAc. The extracts were combined, dried over Na2SO4 and concentrated under vacuum. The resultant residue was purified by normal phase HPLC on a silica column, using as eluent 40% EtOAc/hexane, to afford the title compound as an off-white solid (1.2 g, 2.3 mmoles).

reactant | 1-benzyl-3-(4-nitrophenoxy)piperidine | 3.14 mmoles, 1.0 g | C(C1=CC=CC=C1)N1CC(CCC1)OC1=CC=C(C=C1)[N+](=O)[O-] | C18H20N2O3
reactant | 1-chloromethanesulfonylnaphthalene | 3.8 mmoles, 0.9 g | ClCS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C11H9ClO2S
reactant | potassium t-butoxide | 9 mmoles, 1M, 9 mL | CC(C)([O-])C.[K+]
reactant | HCl | 2N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 1-Benzyl-3-[3-(1-Naphthylsulfonylmethyl)-4-nitrophenoxy]-piperidine | 2.3 mmoles, 1.2 g | C(C1=CC=CC=C1)N1CC(CCC1)OC1=CC(=C(C=C1)[N+](=O)[O-])CS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C29H28N2O5S
